US07456164B2
2-Fluoro-N-{4-[4-(3-pyrrolidin-1-yl-propoxy)-phenyl]-tetrahydro-pyran-4-ylmethyl}-benzenesulfonamide
To a stirred solution of {4-[4-(3-pyrrolidin-1-ylpropoxy)phenyl]tetrahydropyran-4-yl}methylamine (100 mg, 0.314 mmol) and triethylamine (0.1 mL, 0.63 mmol) in anhydrous dichloromethane (3 mL) under nitrogen atmosphere at 0° C. was added 2-fluorobenzenesulfonylchloride (91 mg, 0.47 mmol). The reaction mixture was stirred for 2 h allowing it to warm up to room temperature. It was then diluted with dichloromethane and quenched with a saturated aqueous solution of NaHCO3. The organic layer was separated and washed with water, dried over sodium sulfate, filtered and concentrated under reduced pressure to give the title compound (120 mg, 80%). 1H NMR (400 MHz, CDCl3) δ7.86-7.82 (t, 1H), 7.58-7.52 (m, 1H), 7.28-7.24 (m, 1H), 7.13-7.12 (m, 3H), 6.90-6.88 (m, 2H), 4.19 (m, 1H), 4.05-4.02 (t, 2H), 3.73-3.70 (m, 2H), 3.56-3.51 (t, 2H), 3.10-3.08 (d, 2H), 2.66-2.62 (t, 2H), 2.54 (m, 4H), 2.06-1.99 (m, 4H), 1.85-1.8 (m, 6H).

reactant | {4-[4-(3-pyrrolidin-1-ylpropoxy)phenyl]tetrahydropyran-4-yl}methylamine | 0.314 mmol, 100 mg | N1(CCCC1)CCCOC1=CC=C(C=C1)C1(CCOCC1)CN | C19H30N2O2
reactant | triethylamine | 0.63 mmol, 0.1 mL | C(C)N(CC)CC | C6H15N
reactant | 2-fluorobenzenesulfonylchloride | 0.47 mmol, 91 mg | FC1=C(C=CC=C1)S(=O)(=O)Cl | C6H4ClFO2S
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | 2-Fluoro-N-{4-[4-(3-pyrrolidin-1-yl-propoxy)-phenyl]-tetrahydro-pyran-4-ylmethyl}-benzenesulfonamide | 120 mg, 80% | FC1=C(C=CC=C1)S(=O)(=O)NCC1(CCOCC1)C1=CC=C(C=C1)OCCCN1CCCC1 | C25H33FN2O4S
